US07399759B2
2-[[4-Oxo-2-(2-pyridyl)-4H-1,3-benzothiazin-6-yl]oxy]acetic acid
A mixture of tert-butyl 2-[[4-oxo-2-(2-pyridyl)-4H-1,3-benzothiazin-6-yl]oxy]acetate (0.30 g, 0.81 mmol) and trifluoroacetic acid (10 ml) was stirred at room temperature for 3 hrs. The reaction mixture was concentrated under reduced pressure and recrystallized from methanol-diisopropyl ether to give the titled compound (0.17 g, 67%).

reactant | tert-butyl 2-[[4-oxo-2-(2-pyridyl)-4H-1,3-benzothiazin-6-yl]oxy]acetate | 0.81 mmol, 0.30 g | O=C1N=C(SC2=C1C=C(C=C2)OCC(=O)OC(C)(C)C)C2=NC=CC=C2 | C19H18N2O4S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[[4-Oxo-2-(2-pyridyl)-4H-1,3-benzothiazin-6-yl]oxy]acetic acid | 0.17 g, 67% | O=C1N=C(SC2=C1C=C(C=C2)OCC(=O)O)C2=NC=CC=C2 | C15H10N2O4S
